US04096267
Step A: 2-Ethyl-2-phenyl-5-methoxy-6,7-dichloro-1-indanone
Sodium methoxide (1.24 g., 0.023 mole) is added portionwise to a stirred mixture of 2-phenyl-5-methoxy-6,7-dichloro-1-indanone (4.61 g., 0.015 mole), iodoethane (15.5 ml., 0.15 mole), benzene (60 ml.) and dimethylformamide (60 ml.) under nitrogen in an ice-water bath. The reaction mixture is left to come to ambient temperature over one hour, then poured into water (1 l.), the benzene layer separated, dried over anhydrous magnesium sulfate and concentrated in vacuo to give 3.23 g. of 2-ethyl-2-phenyl-5-methoxy-6,7-dichloro-1-indanone which melts at 139°-141° C. on crystallization from benzene:hexane, 1:1.

reactant | Sodium methoxide | 0.023 mole, 1.24 g | C[O-].[Na+]
reactant | 2-phenyl-5-methoxy-6,7-dichloro-1-indanone | 0.015 mole, 4.61 g | C1(=CC=CC=C1)C1C(C2=C(C(=C(C=C2C1)OC)Cl)Cl)=O | C16H12Cl2O2
reactant | iodoethane | 0.15 mole, 15.5 ml | ICC | C2H5I
reactant | benzene | 60 ml | C1=CC=CC=C1 | C6H6
solvent | water | 1 l | O | H2O
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | 2-Ethyl-2-phenyl-5-methoxy-6,7-dichloro-1-indanone | C(C)C1(C(C2=C(C(=C(C=C2C1)OC)Cl)Cl)=O)C1=CC=CC=C1 | C18H16Cl2O2
